US05454977
4.1 g (20 mmol) of 4-n-propylcyclohexyl bromide was dropped into a mixture of 0.5 g of magnesium (21 mmol) and 50 ml of tetrahydrofuran (THF) to obtain Grignard reagent. This solution was then dropped into a 50 ml THF solution of 4.9 g (20 mmol) of 4-(4-chloro-4-silacyclohexyl)-1,2-difluorobenzene to obtain 4-(4-(trans-4-n-propylcyclohexyl)-4-silacyclohexyl)-1, 2-difluorobenzene.

reactant | 4-(4-chloro-4-silacyclohexyl)-1,2-difluorobenzene | 20 mmol, 4.9 g | Cl[SiH]1CCC(CC1)C1=CC(=C(C=C1)F)F | C11H13ClF2Si
solvent | THF | 50 ml | O1CCCC1 | C4H8O
product | 4-(4-(trans-4-n-propylcyclohexyl)-4-silacyclohexyl)-1, 2-difluorobenzene | yield 91% | C(CC)[C@@H]1CC[C@H](CC1)[SiH]1CCC(CC1)C1=CC(=C(C=C1)F)F | C20H30F2Si
